US06051569
(3R,4S)-3-[(S)-1-hydroxyethyl]-1-[(R)-1-phenylethyl]-4-ethynyl-2-azetidinone
The same reaction as in Example 3 was carried out except that (3R,4S)-3-[(S)-1-(triethylsilyloxy)ethyl]-1-[(R)-1-phenylethyl]-4-[2-(trimethylsilyl)ethynyl]-2-azetidinone (826 mg, 1.92 mmol) was used instead of (3R,4S)-3-[(S)-1-(triethylsilyloxy)propyl]-1-[(R)-1-phenylethyl]-4-[2-(trimethylsilyl)ethynyl]-2-azetidinone in the Example 3, and, in addition 0.28 ml of acetic acid and 4.86 ml (4.76 mmol) of tetrabutylammonium fluoride (1M tetrahydrofuran solution) were used, to obtain 435 mg (yield 93%) of the title compound as colorless oily substance.

reactant | (3R,4S)-3-[(S)-1-(triethylsilyloxy)ethyl]-1-[(R)-1-phenylethyl]-4-[2-(trimethylsilyl)ethynyl]-2-azetidinone | 1.92 mmol, 826 mg | C(C)[Si](O[C@@H](C)[C@@H]1C(N([C@@H]1C#C[Si](C)(C)C)[C@H](C)C1=CC=CC=C1)=O)(CC)CC | C24H39NO2Si2
reactant | tetrabutylammonium fluoride | 4.76 mmol, 1M, 4.86 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetic acid | 0.28 ml | C(C)(=O)O | C2H4O2
product | (3R,4S)-3-[(S)-1-hydroxyethyl]-1-[(R)-1-phenylethyl]-4-ethynyl-2-azetidinone | 435 mg, yield 93% | O[C@@H](C)[C@@H]1C(N([C@@H]1C#C)[C@H](C)C1=CC=CC=C1)=O | C15H17NO2
